US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(trifluoromethyl)quinazolin-4-ol (121 mg, 0.34 mmol) were added phosphoryl tribromide (890 mg) and toluene (1 mL) followed by DIEA (0.117 mL, 0.67 mmol). The mixture was heated at 105° C. for 1 h. The mixture was cooled and partitioned between EtOAc and saturated aq sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. To the residue was added a solution of 5-methyl-1H-pyrazol-3-amine (150 mg, 1.5 mmol) in DMF (4 mL) and the mixture was stirred at rt for 1.5 h. The crude mixture was purified by preparative HPLC (Varian diphenyl reverse phase column, eluting with a gradient of solvent B=0.05% HOAc/ACN and solvent A=0.05% HOAc/H2O) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-(trifluoromethyl)quinazolin-4-amine (30 mg, 20%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.19 (s, 3H) 6.03 (s, 1H) 7.77 (t, J=7.91 Hz, 1H) 7.96-8.06 (m, 2H) 8.27 (d, J=7.53 Hz, 1H) 8.67 (s, 1H) 8.97 (d, J=8.29 Hz, 1H) 11.00 (br s, 1H) 12.18 (br s, 1 H); LC-MS (ESI) m/z 439 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(trifluoromethyl)quinazolin-4-ol | 0.34 mmol, 121 mg | FC(C1=NC2=C(C=CC=C2C(=N1)O)C(F)(F)F)(C1=NC=C(C=C1)F)F | C15H7F6N3O
reactant | phosphoryl tribromide | 890 mg | P(=O)(Br)(Br)Br | Br3OP
reactant | DIEA | 0.67 mmol, 0.117 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | 1.5 mmol, 150 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-(trifluoromethyl)quinazolin-4-amine | 30 mg, 20% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)C(F)(F)F)(C1=NC=C(C=C1)F)F | C19H12F6N6
